US04515729
2-(1-ethoxyaminobutylidene)-5-(2-ethylthiopropyl)-4-methylcyclohexane-1,3-dione (Compound No. 1)
Into 10 ml of ethanol, 2.97 g of 2-butyryl-5-(2-ethylthiopropyl)-4-methylcyclohexane-1,3-dione was dissolved and 0.81 g of ethoxyamine was dropped thereto at 0° C. and the resulting solution was stirred at room temperature for 3 hours. After pouring the reaction solution into ice-cold water, the mixture was extracted with chloroform. The chloroform solution was washed with water and extracted with 1N-sodium hydroxide solution. The sodium hydroxide solution was acidified with 1N-hydrochloric acid and the acidified mixture was extracted with chloroform. The chloroform solution was washed with water and dried over anhydrous magnesium sulfate. The removal of chloroform by distillation under reduced pressure gave 3.0 g of the desired product as yellow oily material. Yield 88%, nD19.5 1.5375.

reactant | 2-butyryl-5-(2-ethylthiopropyl)-4-methylcyclohexane-1,3-dione | 2.97 g | C(CCC)(=O)C1C(CC(C(C1=O)C)CC(C)SCC)=O | C16H26O3S
reactant | ethoxyamine | 0.81 g | C(C)ON | C2H7NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(1-ethoxyaminobutylidene)-5-(2-ethylthiopropyl)-4-methylcyclohexane-1,3-dione | 3.0 g, Yield 88% | C(C)ONC(CCC)=C1C(CC(C(C1=O)C)CC(C)SCC)=O | C18H31NO3S
